US07704995B2
The 3-amino-6-[3-(bromomethyl)phenyl]-N-ethylpyrazine-2-carboxamide (112 mg, 1.0 eq) was dissolved in acetonitrile (5 mL) and treated with (1S)-2,3-dihydro-1H-inden-1-amine (133.8 mg, 3.0 eq), diisopropylethylamine (69.3 mg, 1.6 eq) at ambient temperature. After being stirred for 7 h, the white suspension was filtered on Celite and concentrated in vacuo. The resulting residue was purified by flash column chromatography to give the 3-amino-6-(3-{[(1S)-2,3-dihydro-1H-inden-1-ylamino]methyl}phenyl)-N-ethylpyrazine-2-carboxamide (50.2 mg, 39% yield): 1H NMR (400 MHz, CD3OD): δ 8.72 (s, 1H), 8.21 (s, 1H), 8.11 (d, 1H), 7.61 (d, 1H), 7.58 (t, 1H), 7.49 (d, 1H), 7.39 (d, 2H), 7.39 (d, 2H), 7.37 (m, 1H), 4.38 (s, 2H), 3.47 (m 1H), 3.23 (m, 1H), 3.01 (m, 1H), 2.64 (m, 1H), 2.39 (m, 1H); MS (EI) for C23H25N5O: 388.22 (MH+).

reactant | 3-amino-6-[3-(bromomethyl)phenyl]-N-ethylpyrazine-2-carboxamide | 112 mg, 1.0 eq | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CBr)C(=O)NCC | C14H15BrN4O
reactant | (1S)-2,3-dihydro-1H-inden-1-amine | 133.8 mg, 3.0 eq | [C@@H]1(CCC2=CC=CC=C12)N | C9H11N
reactant | diisopropylethylamine | 69.3 mg, 1.6 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-amino-6-(3-{[(1S)-2,3-dihydro-1H-inden-1-ylamino]methyl}phenyl)-N-ethylpyrazine-2-carboxamide | 50.2 mg, 39% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CN[C@H]1CCC2=CC=CC=C12)C(=O)NCC | C23H25N5O
